US07615562B2
1-{5′-[5-Methyl-2-(2,2,6,6-tetramethyl-piperidin-4-ylamino)-pyrimidin-4-yl]-[2,2′]bithiophenyl-5-yl}-ethanone
The title compound was prepared analogous to Method A, starting from 1-[2,2′]bithiophenyl-5-yl-ethanone, 2,4-dichloro-5-methyl-pyrimidine and 4-amino-2,2,6,6-tetramethylpiperidine.

reactant | 1-[2,2′]bithiophenyl-5-yl-ethanone | S1C(=CC=C1C(C)=O)C=1SC=CC1 | C10H8OS2
reactant | 2,4-dichloro-5-methyl-pyrimidine | ClC1=NC=C(C(=N1)Cl)C | C5H4Cl2N2
reactant | 4-amino-2,2,6,6-tetramethylpiperidine | NC1CC(NC(C1)(C)C)(C)C | C9H20N2
product | 1-{5′-[5-Methyl-2-(2,2,6,6-tetramethyl-piperidin-4-ylamino)-pyrimidin-4-yl]-[2,2′]bithiophenyl-5-yl}-ethanone | CC=1C(=NC(=NC1)NC1CC(NC(C1)(C)C)(C)C)C1=CC=C(S1)C=1SC(=CC1)C(C)=O | C24H30N4OS2
